### PR TITLE
feat: compose layer restrictions and restrict layer cohomology

### PR DESCRIPTION
**Pull request by sqrt-of-2**
This PR gives restrictions of a finite normal layer their tower structure, builds the restriction map on the cohomology of a layer, and completes the correspondence between restrictions of a layer and subgroups of its Galois group. Restrictions compose (`LayerRestriction.trans`), and along a tower `F ⊆ E ⊆ E' ⊆ K` the relative degree is multiplicative (`relativeDegree_trans`), the homomorphisms of Galois groups compose (`galHom_trans`), and the three identifications of coefficient modules agree (`repIso_inv_hom_trans`). `LayerRestriction.cohomologyRes` is the resulting map `H^n(U/V, A^V) ⟶ H^n(U'/V, A^V)`; it is the identity for the trivial restriction and functorial along a tower (`cohomologyRes_self`, `cohomologyRes_trans`). Its direction is pinned in degree zero: read through the identification of `H⁰(U/V, A^V)` with the ground level, it is the ground-level inclusion `A^U ⊆ A^{U'}` (`groundInclusion`, `groundLevelEquiv_cohomologyRes_zero_apply`). Inside the finite quotient system the same tower is indexed by an inclusion `K ≤ H` of subgroups of `Γ`, whose relative degree is the relative index (`relativeDegree_subgroupLayerRestriction`) and whose homomorphism of Galois groups is `Subgroup.inclusion` (`subgroupGalEquiv_galHom_subgroupLayerRestriction_apply`); and the system is closed both ways — a subgroup of the Galois group of the layer of `H` gives back a layer of the system (`subgroupLayer_subgroupLayer`), and conversely every restriction of `L` is the layer of a subgroup of `Γ` (`subgroupLayer_range_galHom`).

The target is `TauCetiRoadmap/ClassFieldTheory/README.md` §4, Layer 1 ("formations and finite normal layers"), whose required API asks for "restriction and corestriction as separate named maps in every degree (`LayerRestriction.cohomologyRes`, `cohomologyCor`, …)" and for "tower compatibility: restrictions and refinements compose (`LayerRestriction.trans`, …), the relative degree is multiplicative along a tower (`relativeDegree_trans`), and every one of the maps above is functorial along a composite (`cohomologyRes_trans`, …)". Layer 1's exit criterion is that the layer's cohomology, its ground level and its towers each have a name; this PR supplies the restriction half of that. The declarations are consumed by Layer 2's `fundamentalClass_restrict` and `h1_subgroupLayer`/`card_H2_subgroupLayer`/`fundamentalClass_restrict_generates`, which are stated over the finite quotient system `H ↦ subgroupLayer H` and therefore need exactly the tower laws proved here, and by Layer 3's `tateIso_res_trans`.

After this PR, Layer 1 still owes corestriction and the `cor ∘ res = [E : F]` normalization, the Tate-degree versions `tateRes`/`tateCor`/`trivialTateRes`/`trivialTateCor` in all integer degrees, layer refinements (`LayerRefinement`, `cohomologyInfl_trans`) and the conjugation adapters. Corestriction is deliberately not attempted here: the pinned Mathlib supplies only the change-of-group map induced by a homomorphism of groups, which is restriction, while the transfer in the other direction exists in no degree, and per Layer 0 item 4 it belongs in the generic Tate-cohomology supplier rather than in the formation files. The same goes for `tateRes`/`tateCor`, which wait on that Layer 0 bullet. Layer 0 itself is on `main`, under `TauCeti/RepresentationTheory/Homological/TateCohomology/` (`LowDegree.lean`, `Inflation.lean`, `Periodic.lean`, `HerbrandQuotient.lean`, landed by #5639, #5642, #5809, #5764 and #5997), with Herbrand multiplicativity open as #5923; `Formation/Basic.lean` already imports `TateCohomology.LowDegree`, so this file sits on top of the prerequisite layer rather than ahead of it.

No Mathlib infrastructure is vendored. The construction reuses `groupCohomology.map` and its `map_id`/`map_comp`/`map_congr`/`map_H0Iso_hom_f` API, `Subgroup.relIndex_mul_relIndex`, the relative-index transport lemmas `Subgroup.relIndex_map_map_of_injective`, `Subgroup.relIndex_comap` and `Subgroup.map_comap_eq_self_of_surjective`, the correspondence theorem `QuotientGroup.comapMk'OrderIso` with its monotonicity, and `Submodule.inclusion`. The mathematical organization is that of Artin–Tate, *Class Field Theory*, Chapter XIV, §§1–2 and Neukirch, *Class Field Theory*, Chapter III, §1, as already credited in the file's references.

All changes are in the existing `TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean`, which grows by 236 lines (about 165 of them declarations, the rest module documentation).

**Review rounds.** The reuse, documentation, placement, naming and proof-quality findings of the earlier rounds are fixed: the direct `GroupCohomology.Functoriality` import is dropped, `repIso_inv_hom_trans` is renamed `repIso_inv_hom_trans_apply`, `relativeDegree_subgroupLayerRestriction` goes through the named `NormalLayer.subgroupGround_eq_map_comap`, and the unused `relativeDegree_self` is deleted as reuse required (`simp` closes `T.relativeDegree = 1` through the `@[simp]` lemmas `relativeDegree_def` and `Subgroup.relIndex_self`). In the latest round the two pointwise lemmas gained their `_apply` suffix, and the `rfl` steps closing quotient-class equalities in `galHom_self`, `galHom_trans`, `subgroupLayer_subgroupLayer` and `subgroupLayer_range_galHom` are replaced by `Subgroup.coe_inclusion`. The api-design request to re-add `@[simp] relativeDegree_self` is contested because it reverses the reuse deletion, and plain `simp` already proves the identity law. The reuse request to build `groundInclusion` out of `TauCeti.invariantsInclusion` is contested because `Formation.level` is a sealed `def`, so the suggestion does not typecheck. The earlier `@[simp]` requests on the `_trans` laws are contested because `LayerRestriction` is a `Prop`, so their left-hand sides cannot fire (`simpNF`).

Roadmap: ClassFieldTheory

🤖 Prepared with Claude Code

### CODE REVIEW

**Comment by CBirkbeck** [comment]
🔍 Review in progress — `codex` reviewing `1cca261e8b48`.

File: TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean
Comment (CBirkbeck) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: ### 🟡 reuse — request_changes  `codex/gpt-5.6-sol`

Several proofs and wrapper theorems duplicate existing generic API or immediate tower specializations.

- `TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:510` — `subgroupGround_mono` manually re-proves monotonicity already supplied by the order isomorphism and subgroup map. _Fix:_ Prove it by composing `QuotientGroup.comapMk'OrderIso L.relativeTop`.monotone with `Subgroup.map_mono`.
- `TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:543` — `relativeDegree_subgroupLayerRestriction` detours through degrees and cardinal cancellation instead of the existing relative-index transport lemmas. _Fix:_ Unfold `relativeDegree`, `ground_subgroupLayer`, and `subgroupGround`, then use `Subgroup.relIndex_map_map_of_injective` for the ambient subgroup inclusion and `Subgroup.relIndex_comap` plus `Subgroup.map_comap_eq_self_of_surjective` for `QuotientGroup.mk'`.
- `TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:525` — `galHom_subgroupRestriction_comp` is only the specialization and symmetry of the public `LayerRestriction.galHom_trans` proved at line 303. _Fix:_ Delete this redundant theorem and use `(LayerRestriction.galHom_trans _ _).symm` at consumers.
- `TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:556` — `cohomologyRes_subgroupRestriction` is only a specialization of `LayerRestriction.cohomologyRes_trans` from line 342. _Fix:_ Delete it and use `LayerRestriction.cohomologyRes_trans _ _ F n` directly.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 89s · 217.4k in / 2.1k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/84bc0a5590c3e2a9b379528776f02c42c1c0c504...1cca261e8b4892769a19e297fc5fd0743149040a) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/reuse.md)</sub>

Comment (CBirkbeck) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: ### 🟡 scope — request_changes  `codex/gpt-5.6-sol`

The PR coherently advances the Layer 1 restriction/tower API, but it is sequenced before Layer 1's stated prerequisite.

- `TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:326` — This adds new Layer 1 cohomological infrastructure while the roadmap's prerequisite Layer 0 is absent from the checkout. _Fix:_ Land the Layer 0 cohomology supplier first (or identify the open PR that supplies it), then rebase this work on that prerequisite.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 56s · 137.4k in / 1.2k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/84bc0a5590c3e2a9b379528776f02c42c1c0c504...1cca261e8b4892769a19e297fc5fd0743149040a) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/scope.md)</sub>

Comment (CBirkbeck) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: ### 🟡 api-design — request_changes  `codex/gpt-5.6-sol`

The public restriction API is missing a normal-form automation annotation.

- `TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:277` — `relativeDegree_self` is the characteristic identity law for `relativeDegree` but lacks `@[simp]`, unlike the parallel `galHom_self` and `cohomologyRes_self` laws. _Fix:_ Annotate `relativeDegree_self` with `@[simp]`.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 63s · 115.3k in / 1.4k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/84bc0a5590c3e2a9b379528776f02c42c1c0c504...1cca261e8b4892769a19e297fc5fd0743149040a) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/api-design.md)</sub>

Comment (CBirkbeck) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: ### 🟡 documentation — request_changes  `codex/gpt-5.6-sol`

The documentation contains a reversed tower description and project-status commentary that will become stale.

- `TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:340` — The `cohomologyRes_trans` docstring reverses the intermediate layers: its equation maps `c.H → b.H → a.H`, corresponding to `K/F → K/E → K/E'`, not `K/F → K/E' → K/E`. _Fix:_ Change the prose to say “from `K/F` to `K/E` and then to `K/E'`.”
- `TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:112` — The module docstring records temporary implementation/project coordination status: that corestriction is absent, unavailable in Mathlib, and belongs to another supplier. _Fix:_ Remove this paragraph from the module docstring; track the missing dependency and ownership in the roadmap or PR description.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 116s · 83.2k in / 1.3k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/84bc0a5590c3e2a9b379528776f02c42c1c0c504...1cca261e8b4892769a19e297fc5fd0743149040a) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/documentation.md)</sub>

**Comment by CBirkbeck** [comment]
## AI review — changes requested

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ♻️ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/correctness.md) | stale (re-run pending) | `codex/gpt-5.6-sol` | The new restriction, tower, cohomology, degree-zero, and subgroup-layer statements faithfully formalize the claimed mathematics; no correctness defects found. |
| ⚠️ | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/reuse.md) | error | `codex/gpt-5.6-sol` |  |
| ⚠️ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/scope.md) | error | `codex/gpt-5.6-sol` |  |
| ♻️ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/attribution.md) | stale (re-run pending) | `codex/gpt-5.6-sol` | The module credits the central informal sources (Artin–Tate, Neukirch, and Tate) and explicitly identifies the Tau Ceti roadmap/blueprint sources for the API organization; the reused Mathlib infrastructure is also named. |
| ⚠️ | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/api-design.md) | error | `codex/gpt-5.6-sol` |  |
| ♻️ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/generality.md) | stale (re-run pending) | `codex/gpt-5.6-sol` | The new restriction, tower, cohomology, and subgroup-correspondence declarations are stated at the natural level required by the roadmap, with no visibly unused or unnecessarily strong assumptions. |
| ♻️ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/placement.md) | stale (re-run pending) | `codex/gpt-5.6-sol` | The new tower, cohomology-restriction, and finite-quotient declarations belong naturally in the existing Formation/Restriction module, and the added GroupCohomology.Functoriality import directly supplies the APIs they use. |
| ♻️ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/naming.md) | stale (re-run pending) | `codex/gpt-5.6-sol` | The introduced names accurately describe their conclusions, follow adjacent API terminology, use appropriate namespaces for dot notation, and add no gratuitous notation. |
| ⚠️ | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/documentation.md) | error | `codex/gpt-5.6-sol` |  |
| ♻️ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/proof-quality.md) | stale (re-run pending) | `codex/gpt-5.6-sol` | The added proofs are concise, appropriately factored, and use explicit public lemmas for the nontrivial coercion and functoriality steps. No undocumented definitional-equality manipulation or materially brittle proof chain was found. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/84bc0a5590c3e2a9b379528776f02c42c1c0c504...10f17b53e2c1b9af2284b4c80ec452d7bc82dcc8) at head `10f17b5`. rubrics @ [`afb424e`](https://github.com/TauCetiProject/TauCetiReview/tree/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics). Review spend: $2.02.</sub>

File: TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean
Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: Contesting this finding: Layer 0 is not absent from the checkout, and this PR already imports it.

**1. The rubric's test is "exists on `main` or in an open PR", and Layer 0 exists on `main`.**
Layer 0's generic supplier lives, as roadmap §1 mandates, under
`TauCeti/RepresentationTheory/Homological/TateCohomology/`. On the base commit of this PR that
directory contains four landed modules:

```
$ ls TauCeti/RepresentationTheory/Homological/TateCohomology/
HerbrandQuotient.lean  Inflation.lean  LowDegree.lean  Periodic.lean

$ git log --oneline origin/main -5 -- TauCeti/RepresentationTheory/Homological/TateCohomology/
01bfb90ef feat: two-periodicity of Tate cohomology in every integer degree (#5997)
d6741e26d feat: add Herbrand quotient base calculations (#5764)
d0c6a366f feat: add positive-degree Tate inflation (#5809)
d32f23213 feat: identify low-degree Tate cohomology (#5639)
5361e4048 feat: add positive cyclic Tate periodicity (#5642)
```

Those cover Layer 0 item 4's `Ĥ^0(G,M) ≃ M^G / N_G M` and low-degree identifications
(`LowDegree.lean`), inflation in positive degrees (`Inflation.lean`), two-periodicity for cyclic
groups (`Periodic.lean`) and the Herbrand quotient (`HerbrandQuotient.lean`); its multiplicativity
in a short exact sequence is open PR #5923, the other half of the disjunction the rubric allows.

**2. This PR's own import closure contains Layer 0.** `Formation/Restriction.lean` imports
`Formation/Basic.lean`, whose third import is
`public import TauCeti.RepresentationTheory.Homological.TateCohomology.LowDegree`. The prerequisite
stage is not merely present; the file being extended here is already built on top of it.

**3. The one Layer 0 bullet still open is not used by anything in this diff.** Layer 0 item 4 still
owes restriction and corestriction *in every Tate degree* with `cor ∘ res = [G:H]`, and the Tate cup
product. This PR defines no Tate-degree map: `LayerRestriction.cohomologyRes` is stated in ordinary
group cohomology, `big.H F n ⟶ small.H F n` for `n : ℕ`, and is built from Mathlib's
`groupCohomology.map` alone. `tateRes`/`tateCor` are deliberately not attempted, precisely because
they wait on that Layer 0 bullet; the PR description says so.

**4. The roadmap files these declarations under Layer 1, not Layer 0.** `ClassFieldTheory/README.md`
§4 Layer 1 "Required API" names them explicitly, at lines 668 and 671–674:

> - restriction and corestriction as separate named maps in every degree
>   (`LayerRestriction.cohomologyRes`, `cohomologyCor`, `tateRes`, `tateCor`, …)
> - **tower compatibility:** restrictions and refinements compose (`LayerRestriction.trans`, …),
>   the relative degree is multiplicative along a tower (`relativeDegree_trans`), and every one of
>   the maps above is functorial along a composite (`cohomologyRes_trans`, …)

Every declaration this PR adds is one of those anchors, in the layer that owns it.

The suggested fix — "land the Layer 0 cohomology supplier first" — is therefore not actionable:
the supplier is landed and imported, and its remaining bullet is the Tate-degree res/cor that this
PR intentionally does not touch. Bundling that work in would violate the one-topic rule this rubric
states.

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: Contesting this finding: `@[simp]` on `relativeDegree_self` is a `simpNF` error, and the automation
it asks for already exists.

I added the tag and ran the repo's linter driver over the module. Verbatim output:

```
-- Found 1 error in 56 declarations (plus 19 automatically generated ones) in
   TauCeti.NumberTheory.ClassFieldTheory.Formation.Restriction with 13 linters

/- The `simpNF` linter reports:
SOME SIMP LEMMAS ARE NOT IN SIMP-NORMAL FORM. -/
-- TauCeti.NumberTheory.ClassFieldTheory.Formation.Restriction
#check @TauCeti.ClassFieldTheory.LayerRestriction.relativeDegree_self /- simp can prove this:
  by simp only [*, @TauCeti.ClassFieldTheory.LayerRestriction.relativeDegree_def,
                @Subgroup.relIndex_self]
One of the lemmas above could be a duplicate. -/
```

Silencing the linter is not an option in this repo, so the tag cannot be added.

The reason is the asymmetry with the two parallel laws the finding cites. `relativeDegree` has an
unfolding lemma that is itself `@[simp]` — `relativeDegree_def` (line 172), rewriting
`T.relativeDegree` to `small.ground.toSubgroup.relIndex big.ground.toSubgroup` — so no
`T.relativeDegree` left-hand side is ever simp-normal, and at `small = big` the resulting
`relIndex` goal is closed outright by the `@[simp]` `Subgroup.relIndex_self`. `galHom` and
`cohomologyRes` have no such `_def` simp lemma, which is exactly why `galHom_self` and
`cohomologyRes_self` do lint with the tag.

"simp can prove this" also means the requested automation is already there. Against the pushed
commit:

```lean
open TauCeti.ClassFieldTheory in
example {G : Type} [Group G] [TopologicalSpace G] [IsTopologicalGroup G] [CompactSpace G]
    [TotallyDisconnectedSpace G] {L : NormalLayer G} (T : LayerRestriction L L) :
    T.relativeDegree = 1 := by simp
```

compiles with no error. `simp` normalizes the trivial relative degree to `1` on its own; the tag
would add nothing and would turn the lint red.

I have pushed a docstring note on `relativeDegree_self` recording this obstruction, so the tag is
not re-added in a later round. The sibling findings in this round's other threads (reuse,
documentation) are fixed in the same commit.

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: All four bullets are fixed at head `0475570` (commit `047557073`, "refactor: reuse the correspondence and relative-index API"). Recording the fixes here because this rubric's round-2 run errored out (6.8s, $0.00) rather than judging the new commit.

- `subgroupGround_mono` (now line 508) is exactly the suggested composition:
  ```lean
  theorem subgroupGround_mono : Monotone L.subgroupGround := fun _ _ hK ↦
    Subgroup.map_mono ((QuotientGroup.comapMk'OrderIso L.relativeTop).monotone hK)
  ```
- `relativeDegree_subgroupLayerRestriction` (now line 533) no longer cancels cardinalities; it unfolds `relativeDegree`, `ground_subgroupLayer` and `subgroupGround` and transports the relative index along `Subgroup.relIndex_map_map_of_injective`, `Subgroup.relIndex_comap` and `Subgroup.map_comap_eq_self_of_surjective`, exactly as suggested. The single remaining `rfl` step is the coercion `↑(QuotientGroup.comapMk'OrderIso N X) = Subgroup.comap (QuotientGroup.mk' N) X`, which is the definition of the order isomorphism's `toFun`; Mathlib supplies no `_apply` lemma for it.
- `galHom_subgroupRestriction_comp` is deleted; its one use site, `subgroupGalEquiv_galHom_subgroupLayerRestriction`, now rewrites with `← LayerRestriction.galHom_trans` directly (line 528).
- `cohomologyRes_subgroupRestriction` is deleted; it had no other use site, and `LayerRestriction.cohomologyRes_trans` (line 340) is the general statement consumers should use.

`lake build`, `lake exe axioms` and `scripts/lint-env.sh` are green on this head.

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: Both findings are fixed at head `0475570` (commit `047557073`). Recording it here because this rubric's round-2 run errored out (7.1s, $0.00) rather than judging the new commit.

- The `cohomologyRes_trans` docstring now reads "Restricting from `K/F` to `K/E` and then to `K/E'` is restricting from `K/F` to `K/E'`", matching the equation `(T.trans T').cohomologyRes = T'.cohomologyRes ≫ T.cohomologyRes` with `T : LayerRestriction a b`, `T' : LayerRestriction b c`.
- The module-docstring paragraph about corestriction being absent from Mathlib and belonging to another supplier is deleted; that coordination note now lives only in the PR description.

`lake build`, `lake exe axioms` and `scripts/lint-env.sh` are green on this head.

**Comment by utensil** [comment]
🔍 Review in progress — `codex` reviewing `047557073802`.

File: TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean
Comment (utensil) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: ### 🟡 reuse — request_changes  `codex/gpt-5.6-sol`

Two additions duplicate existing invariant and relative-index APIs instead of reusing them.

- `TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:350` — `groundInclusion` reconstructs `TauCeti.invariantsInclusion`, while `groundInclusion_apply_coe` repeats its companion lemma. _Fix:_ Define the domain-specific map using `invariantsInclusion F.toRep T.ground_toSubgroup_le`; delete the duplicate coercion lemma and use `invariantsInclusion_apply_coe` directly.
- `TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:275` — `relativeDegree_self` is an unused restatement already proved by simplification from the public API. _Fix:_ Delete it; consumers can use `simp [LayerRestriction.relativeDegree_def]` or `Subgroup.relIndex_self`.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 347s · 1281.1k in / 8.7k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/84bc0a5590c3e2a9b379528776f02c42c1c0c504...0475570738024c9374212580a1c0d2355def68b3) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/153ea8a6febe59f492c2f3d48471733e8b550848/rubrics/reuse.md)</sub>

Comment (utensil) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: ### 🟡 scope — request_changes  `codex/gpt-5.6-sol`

The PR advances a named Layer 1 target coherently, but Layer 1's stated prerequisite stage is still incomplete.

- `:0` — Layer 1 is being built before prerequisite Layer 0 exists in full; the contest reply establishes only a partial supplier and acknowledges that Tate restriction/corestriction and cup product remain absent. _Fix:_ Land the remaining Layer 0 supplier work on main or in an open PR before this Layer 1 work, or have a human revise the roadmap dependency order.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 141s · 339.5k in / 3.3k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/84bc0a5590c3e2a9b379528776f02c42c1c0c504...0475570738024c9374212580a1c0d2355def68b3) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/153ea8a6febe59f492c2f3d48471733e8b550848/rubrics/scope.md)</sub>

Comment (utensil) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: ### 🟡 placement — request_changes  `codex/gpt-5.6-sol`

Placement is appropriate, but the newly added Mathlib import is redundant.

- `TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:9` — The direct `GroupCohomology.Functoriality` import is unused because `Formation.Basic` already exposes it transitively. _Fix:_ Remove the import on line 9.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 148s · 298.9k in / 3.2k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/84bc0a5590c3e2a9b379528776f02c42c1c0c504...0475570738024c9374212580a1c0d2355def68b3) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/153ea8a6febe59f492c2f3d48471733e8b550848/rubrics/placement.md)</sub>

Comment (utensil) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: ### 🟡 naming — request_changes  `codex/gpt-5.6-sol`

One tower lemma’s name overstates its pointwise statement by omitting the conventional `apply` suffix.

- `TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:309` — `repIso_inv_hom_trans` is only an equality after applying the inverse homs to `x`, while its name suggests a map-level composition law. _Fix:_ Rename it to `repIso_inv_hom_trans_apply` and update its use in `cohomologyRes_trans`.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 186s · 402.8k in / 4.1k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/84bc0a5590c3e2a9b379528776f02c42c1c0c504...0475570738024c9374212580a1c0d2355def68b3) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/153ea8a6febe59f492c2f3d48471733e8b550848/rubrics/naming.md)</sub>

Comment (utensil) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: ### 🟡 documentation — request_changes  `codex/gpt-5.6-sol`

One new docstring contains proof and linter mechanics instead of documenting only the mathematical result.

- `TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:272` — The `relativeDegree_self` docstring discusses how `simp` proves the theorem and why `simpNF` rejects an attribute; this is proof/tooling commentary, not documentation of the result. _Fix:_ Keep only the first sentence as the docstring; delete the automation rationale or move it to a regular comment beside the declaration.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 113s · 167.7k in / 2.6k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/84bc0a5590c3e2a9b379528776f02c42c1c0c504...0475570738024c9374212580a1c0d2355def68b3) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/153ea8a6febe59f492c2f3d48471733e8b550848/rubrics/documentation.md)</sub>

Comment (utensil) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: ### 🟡 proof-quality — request_changes  `codex/gpt-5.6-sol`

One proof depends directly on an undocumented implementation-level definitional equality.

- `TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:535` — `relativeDegree_subgroupLayerRestriction` uses `hcoe := rfl` to unfold the value projection of `QuotientGroup.comapMk'OrderIso`, coupling the proof to the order-isomorphism's internal representation. _Fix:_ Add or use a named characterization lemma for the order-isomorphism application (or for `subgroupGround`) and rewrite through that lemma; then organize the relative-index transport around this stable interface.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 124s · 192.4k in / 2.9k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/84bc0a5590c3e2a9b379528776f02c42c1c0c504...0475570738024c9374212580a1c0d2355def68b3) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/153ea8a6febe59f492c2f3d48471733e8b550848/rubrics/proof-quality.md)</sub>

**Comment by utensil** [comment]
## AI review — changes requested

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/153ea8a6febe59f492c2f3d48471733e8b550848/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ✅ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/153ea8a6febe59f492c2f3d48471733e8b550848/rubrics/correctness.md) | approved | `codex/gpt-5.6-sol` | The new restriction, tower, degree-zero, and finite-quotient-system declarations are semantically faithful to the stated mathematics. |
| 🟡 | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/153ea8a6febe59f492c2f3d48471733e8b550848/rubrics/reuse.md) | changes requested | `codex/gpt-5.6-sol` | Two additions duplicate existing invariant and relative-index APIs instead of reusing them. |
| 🟡 | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/153ea8a6febe59f492c2f3d48471733e8b550848/rubrics/scope.md) | changes requested | `codex/gpt-5.6-sol` | The PR advances a named Layer 1 target coherently, but Layer 1's stated prerequisite stage is still incomplete. |
| ✅ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/153ea8a6febe59f492c2f3d48471733e8b550848/rubrics/attribution.md) | approved | `codex/gpt-5.6-sol` | The module credits its central informal sources (Artin–Tate, Neukirch, and Tate) and explicitly identifies the Tau Ceti roadmap/blueprint as the source of the API organization; the Mathlib infrastructure is reused directly rather than vendored. |
| ✅ | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/153ea8a6febe59f492c2f3d48471733e8b550848/rubrics/api-design.md) | approved | `codex/gpt-5.6-sol` | The canonical restriction API is complete for this increment, with characteristic self, composition, coefficient, degree-zero, and subgroup-correspondence laws. `relativeDegree_self` already simplifies through `relativeDegree_def` and `Subgroup.relIndex_self`, so an additional `@[simp]` annotation is unnecessary. |
| ✅ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/153ea8a6febe59f492c2f3d48471733e8b550848/rubrics/generality.md) | approved | `codex/gpt-5.6-sol` | The new declarations are stated at the natural formation and finite-layer level, with no materially unused or unnecessarily strong assumptions and no duplicated special-case proofs. |
| 🟡 | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/153ea8a6febe59f492c2f3d48471733e8b550848/rubrics/placement.md) | changes requested | `codex/gpt-5.6-sol` | Placement is appropriate, but the newly added Mathlib import is redundant. |
| 🟡 | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/153ea8a6febe59f492c2f3d48471733e8b550848/rubrics/naming.md) | changes requested | `codex/gpt-5.6-sol` | One tower lemma’s name overstates its pointwise statement by omitting the conventional `apply` suffix. |
| 🟡 | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/153ea8a6febe59f492c2f3d48471733e8b550848/rubrics/documentation.md) | changes requested | `codex/gpt-5.6-sol` | One new docstring contains proof and linter mechanics instead of documenting only the mathematical result. |
| 🟡 | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/153ea8a6febe59f492c2f3d48471733e8b550848/rubrics/proof-quality.md) | changes requested | `codex/gpt-5.6-sol` | One proof depends directly on an undocumented implementation-level definitional equality. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/84bc0a5590c3e2a9b379528776f02c42c1c0c504...0475570738024c9374212580a1c0d2355def68b3) at head `0475570`. rubrics @ [`153ea8a`](https://github.com/TauCetiProject/TauCetiReview/tree/153ea8a6febe59f492c2f3d48471733e8b550848/rubrics). Review spend: $5.92.</sub>

File: TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean
Comment (utensil) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `0475570`; the finding stands — Two additions duplicate existing invariant and relative-index APIs instead of reusing them.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3980336908.</sub>

Comment (utensil) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: **Re: your reply on `scope` —** re-reviewed on `0475570`; the finding stands — The PR advances a named Layer 1 target coherently, but Layer 1's stated prerequisite stage is still incomplete.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3978546432.</sub>

Comment (utensil) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `0475570`; this clears the finding ✅ — approved on `0475570`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3978548242.</sub>

Comment (utensil) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: **Re: your reply on `documentation` —** re-reviewed on `0475570`; the finding stands — One new docstring contains proof and linter mechanics instead of documenting only the mathematical result.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3980337171.</sub>

**Comment by kim-em** [comment]
🔍 Review in progress — `codex` reviewing `10f17b53e2c1`.

File: TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean
Comment (kim-em) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: ### 🟡 reuse — request_changes  `codex/gpt-5.6-sol`

One public theorem duplicates existing simplification API without adding a usable specialization.

- `TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:274` — `LayerRestriction.relativeDegree_self` restates the result already obtained directly from `relativeDegree_def` and `Subgroup.relIndex_self`; naming every sibling identity does not justify duplicating an existing simp consequence. _Fix:_ Delete the theorem and use `simp [LayerRestriction.relativeDegree_def]` at call sites.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 31s · 129.8k in / 1k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/84bc0a5590c3e2a9b379528776f02c42c1c0c504...9f832d9710f4ee00412a2012738cd9e247dd7712) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/reuse.md)</sub>

Comment (kim-em) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: ### ✅ scope — now passing on `9f832d9`.

Comment (kim-em) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: ### 🟡 api-design — request_changes  `codex/gpt-5.6-sol`

The composite restriction API still omits normal-form automation for its principal functorial maps.

- `TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:299` — The characteristic composition lemmas `galHom_trans`, `repIso_inv_hom_trans_apply`, and `cohomologyRes_trans` are oriented toward canonical component operations but lack `@[simp]`, so composite restrictions remain unreduced for downstream users. _Fix:_ Mark these three lemmas `@[simp]`; leave `relativeDegree_trans` untagged because `relativeDegree_def` already unfolds its left-hand side.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 36s · 117.5k in / 1.5k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/84bc0a5590c3e2a9b379528776f02c42c1c0c504...9f832d9710f4ee00412a2012738cd9e247dd7712) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/api-design.md)</sub>

Comment (kim-em) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: ### ✅ documentation — now passing on `9f832d9`.

Comment (kim-em) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: ### ✅ proof-quality — now passing on `9f832d9`.

**Comment by kim-em** [comment]
## AI review — changes requested

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ♻️ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/correctness.md) | stale (re-run pending) | `codex/gpt-5.6-sol` | The new restriction, tower, degree-zero, and finite-quotient correspondence declarations faithfully formalize the stated mathematics; no semantic defects found. |
| 🟡 | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/reuse.md) | changes requested | `codex/gpt-5.6-sol` | One public theorem duplicates existing simplification API without adding a usable specialization. |
| ✅ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/scope.md) | approved | `codex/gpt-5.6-sol` | The PR is a coherent Layer 1 restriction-and-tower unit and directly implements APIs named by the ClassFieldTheory roadmap. Layer 0 is present on main, and the unfinished Tate restriction/corestriction work is not consumed here. |
| ♻️ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/attribution.md) | stale (re-run pending) | `codex/gpt-5.6-sol` | The file credits the central informal sources and explicitly attributes the API signatures to the Tau Ceti roadmap blueprint. The reused Mathlib infrastructure is standard dependency-level material and requires no additional attribution. |
| 🟡 | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/api-design.md) | changes requested | `codex/gpt-5.6-sol` | The composite restriction API still omits normal-form automation for its principal functorial maps. |
| ♻️ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/generality.md) | stale (re-run pending) | `codex/gpt-5.6-sol` | The new declarations use the natural layer-level assumptions and provide the general tower and subgroup-indexed forms required by the roadmap; no under-generalization, unnecessary abstraction, or duplicated special-case proof warrants changes. |
| ✅ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/placement.md) | approved | `codex/gpt-5.6-sol` | The additions are canonically placed with the existing layer-restriction and finite-quotient-system API in Formation/Restriction. Its two imports are appropriately scoped and directly support the representation restriction and formation infrastructure used by the file. |
| ✅ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/naming.md) | approved | `codex/gpt-5.6-sol` | The introduced names accurately describe their conclusions, follow adjacent ClassFieldTheory terminology, reside in the appropriate namespaces, and introduce no notation. |
| ✅ | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/documentation.md) | approved | `codex/gpt-5.6-sol` | The added module and declaration documentation accurately describes the restriction tower, cohomology map, degree-zero behavior, and finite quotient correspondence. |
| ✅ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/proof-quality.md) | approved | `codex/gpt-5.6-sol` | The prior undocumented definitional-equality dependency has been replaced by an explicit extensional characterization of `subgroupGround`; the added proofs are otherwise concise and use stable named lemmas. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/84bc0a5590c3e2a9b379528776f02c42c1c0c504...9f832d9710f4ee00412a2012738cd9e247dd7712) at head `9f832d9`. rubrics @ [`afb424e`](https://github.com/TauCetiProject/TauCetiReview/tree/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics). Review spend: $3.70.</sub>

File: TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean
Comment (kim-em) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `10f17b5`; the finding stands — One public theorem duplicates existing simplification API and has no consumers.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3980336908.</sub>

Comment (kim-em) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: **Re: your reply on `scope` —** re-reviewed on `10f17b5`; the finding stands — The restriction work is a coherent Layer 1 unit, but the roadmap’s prerequisite Layer 0 is not complete in this checkout.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3978546432.</sub>

Comment (kim-em) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `10f17b5`; the finding stands — The tower API exposes composition laws but omits their normal-form automation, forcing downstream proofs to rewrite basic functoriality manually.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3978548242.</sub>

Comment (kim-em) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: **Re: your reply on `documentation` —** re-reviewed on `10f17b5`; the finding stands — One new theorem docstring discusses proof automation and linter behavior instead of documenting only the result.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3980337171.</sub>

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: Both bullets are contested; the fixes for the other four rubrics of this round are pushed at head `9f832d9`.

**1. `groundInclusion` cannot be defined as `invariantsInclusion F.toRep T.ground_toSubgroup_le` — it does not typecheck.**

`Formation.level` is a sealed `def` in `Formation/Basic.lean` (module system, no `@[expose]`), so in this module `F.level U` and `invariants (F.toRep.ρ.comp U.toSubgroup.subtype)` are *not* interchangeable types. I applied the suggested fix verbatim, adding the import the identifier needs (`TauCeti.RepresentationTheory.Homological.ContCohomology.FiniteQuotient.Basic`, which is not in this file's closure today). `lake build` says:

```
error: TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:353:2: Type mismatch
  invariantsInclusion F.toRep ⋯
has type
  ↥(Representation.invariants (MonoidHom.comp F.toRep.ρ (↑big.ground).subtype)) →ₗ[ℤ]
    ↥(Representation.invariants (MonoidHom.comp F.toRep.ρ (↑small.ground).subtype))
but is expected to have type
  ↥(F.level big.ground) →ₗ[ℤ] ↥(F.level small.ground)

Note: The following definitions were not unfolded because their definition is not exposed:
  Formation.level ↦ 10
```

and, for the second half of the suggestion, deleting `groundInclusion_apply_coe` in favour of `invariantsInclusion_apply_coe`:

```
error: TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:359:2: Type mismatch
  Submodule.coe_inclusion ?m.104 x
has type
  ↑((Submodule.inclusion ?m.104) x) = ↑x
but is expected to have type
  ↑((T.groundInclusion F) x) = ↑x

Note: The following definitions were not unfolded because their definition is not exposed:
  Formation.level ↦ 144
```

Making the suggestion compile would mean exposing `Formation.level` in a different module and adding a new import — a strictly larger surface than the two lines it removes. What `groundInclusion` actually contains is one application of Mathlib's `Submodule.inclusion` to the *existing* `Formation.level_antitone`, which is the same combinator `invariantsInclusion` is built from; there is no re-proved lemma here. And `groundInclusion_apply_coe` is not a duplicate of anything reachable: because `groundInclusion` is itself sealed downstream, that lemma is the only way a consumer can compute with it, exactly as `repIso_apply_coe`/`repIso_inv_apply_coe` are for `repIso` and `mem_subgroupGround` is for `subgroupGround` in this same file.

**2. Deleting `relativeDegree_self` contradicts the `api-design` finding in this same review.**

`api-design` round 1 (comment 3978100634, rubric `afb424e`) required the opposite:

> `relativeDegree_self` is the characteristic identity law for `relativeDegree` but lacks `@[simp]`, unlike the parallel `galHom_self` and `cohomologyRes_self` laws. _Fix:_ Annotate `relativeDegree_self` with `@[simp]`.

and `api-design` approved this head (rubric `153ea8a`) on the ground that

> The canonical restriction API is complete for this increment, with characteristic self, composition, coefficient, degree-zero, and subgroup-correspondence laws. `relativeDegree_self` already simplifies through `relativeDegree_def` and `Subgroup.relIndex_self`, so an additional `@[simp]` annotation is unnecessary.

Both cannot hold: one rubric asks for the declaration to carry `@[simp]` and counts it among the API's characteristic self laws, the other asks for it not to exist. `galHom_self` and `cohomologyRes_self` are the two sibling identity laws for the other two invariants a restriction carries; `relativeDegree_self` is the third, and a numeric invariant whose value on the trivial restriction has no name is the asymmetry `api-design` flagged in the first place. I am keeping it, and its docstring is trimmed to the mathematical statement at `9f832d9` as `documentation` asked.

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: Contesting again, on the rubric's own test rather than on completeness.

**1. The rubric asks whether the prerequisite stage is *absent*, not whether it is finished.** The clause is:

> Read the path in the roadmap's own order. When the cited target presupposes an earlier stage or layer of the same roadmap, confirm that stage exists on `main` or in an open PR. Material built for a later stage while its stated prerequisite stage is **absent** is speculative […]

Layer 0 is not absent. Its generic supplier is on `main` in the directory §1 of the roadmap nominates, `TauCeti/RepresentationTheory/Homological/TateCohomology/`, in four modules landed by five merged PRs:

```
$ git log --oneline origin/main -5 -- TauCeti/RepresentationTheory/Homological/TateCohomology/
01bfb90ef feat: two-periodicity of Tate cohomology in every integer degree (#5997)
d6741e26d feat: add Herbrand quotient base calculations (#5764)
d0c6a366f feat: add positive-degree Tate inflation (#5809)
d32f23213 feat: identify low-degree Tate cohomology (#5639)
5361e4048 feat: add positive cyclic Tate periodicity (#5642)
```

Herbrand multiplicativity is open PR #5923, the other half of the disjunction the rubric allows. Under a completeness reading no layer of a roadmap in progress is ever a satisfied prerequisite, and no Layer 1 PR could ever be approved — that is not a test the rubric states.

**2. Layer 1 is already on `main`, admitted under the same prerequisite ordering.** This PR does not open Layer 1; it extends a file that is already there:

```
$ git log --oneline origin/main -- TauCeti/NumberTheory/ClassFieldTheory/Formation/
88ffb4f3c feat: restrict a normal layer to a subgroup of its Galois group (#6039)
de65666e0 feat: add formations and their finite normal layers (#5853)
```

`Formation/Basic.lean` and `Formation/Restriction.lean` — `Formation`, `NormalLayer`, `Gal`, `rep`, `subgroupGround`, `subgroupLayer`, `subgroupGalEquiv`, `degree_subgroupLayer`, `subgroupRestriction`, `relativeDegree_subgroupRestriction`, i.e. most of Layer 1's "Required API" list — were reviewed and merged with Layer 0 in exactly its present state. Blocking the next 165 lines of the same list on a prerequisite question already adjudicated for the file they go in would leave `main` carrying half of Layer 1 with no way to finish it.

**3. Nothing in this diff consumes the open Layer 0 bullets.** The two the reply acknowledged are Tate-degree restriction/corestriction and the Tate cup product. This PR defines no Tate-degree map and no cup product: `LayerRestriction.cohomologyRes` is ordinary group cohomology, `big.H F n ⟶ small.H F n` for `n : ℕ`, built from Mathlib's `groupCohomology.map`, and the tower laws are equalities of those maps. `tateRes`/`tateCor` are deliberately not attempted here precisely because they wait on that bullet; adding them would be the second topic this rubric forbids. The Layer 0 piece this file does consume — the low-degree identification — is imported: `Formation/Basic.lean` line 10 is `public import TauCeti.RepresentationTheory.Homological.TateCohomology.LowDegree`.

**4. The declarations are Layer 1's own named anchors.** `ClassFieldTheory/README.md` §4 Layer 1 "Required API" names `LayerRestriction.cohomologyRes`, `LayerRestriction.trans`, `relativeDegree_trans` and `cohomologyRes_trans` verbatim, and the exit criterion is that "restriction, corestriction and towers each have a name". This PR supplies the restriction half of that criterion, in the layer the roadmap files it under.

The suggested fix — land the remaining Layer 0 work first, or have a human revise the roadmap — is not actionable inside this PR: the remaining work is a separate topic in a different module, and agents are forbidden from writing to the roadmap repo.

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: Fixed at head `9f832d9`: the direct `Mathlib.RepresentationTheory.Homological.GroupCohomology.Functoriality` import is removed. `lake build` is green without it, so `Formation.Basic` does supply it transitively.

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: Fixed at head `9f832d9`: `repIso_inv_hom_trans` is renamed to `repIso_inv_hom_trans_apply`, and its use in `cohomologyRes_trans` is updated. It is the only use site.

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: Fixed at head `9f832d9`: the `relativeDegree_self` docstring is now the single sentence "The relative degree of the trivial restriction is \`1\`." The `simpNF` obstruction is recorded in a `--` comment above it, so a later round does not re-add the attribute that the linter rejects.

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: Fixed at head `9f832d9`. The inline `have hcoe … := rfl` is gone; `relativeDegree_subgroupLayerRestriction` now goes through a named characterization lemma placed next to `subgroupGround`:

```lean
/-- The intermediate subgroup of `H`, written without the correspondence theorem: it is the
preimage of `H` under the quotient map `U → U ⧸ V`, pushed into `G`. This is the form in which
relative indices transport along `subgroupGround`. -/
theorem subgroupGround_eq_map_comap :
    L.subgroupGround H =
      (Subgroup.comap (QuotientGroup.mk' L.relativeTop) H).map L.ground.toSubgroup.subtype := by
  ext g
  rw [mem_subgroupGround, Subgroup.mem_map]
  constructor
  · rintro ⟨hg, hmem⟩
    exact ⟨⟨g, hg⟩, Subgroup.mem_comap.2 hmem, rfl⟩
  · rintro ⟨⟨u, hu⟩, hmem, rfl⟩
    exact ⟨hu, Subgroup.mem_comap.1 hmem⟩
```

It is proved from the public `mem_subgroupGround`, not from the order isomorphism's value projection, so no proof in the file now names the internal representation of `QuotientGroup.comapMk'OrderIso`. The relative-index transport reads

```lean
  rw [LayerRestriction.relativeDegree_def, ground_subgroupLayer, ground_subgroupLayer,
    subgroupGround_eq_map_comap, subgroupGround_eq_map_comap,
    Subgroup.relIndex_map_map_of_injective _ _ (Subgroup.subtype_injective _),
    Subgroup.relIndex_comap,
    Subgroup.map_comap_eq_self_of_surjective (QuotientGroup.mk'_surjective L.relativeTop)]
```

`lake build`, `lake exe axioms` and the module's `#lint` driver are green on this head.

Comment (kim-em) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `9f832d9`; the finding stands — One public theorem duplicates existing simplification API without adding a usable specialization.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3981649937.</sub>

Comment (kim-em) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: **Re: your reply on `scope` —** re-reviewed on `9f832d9`; this clears the finding ✅ — approved on `9f832d9`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3981653254.</sub>

Comment (kim-em) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: **Re: your reply on `placement` —** re-reviewed on `9f832d9`; this clears the finding ✅ — approved on `9f832d9`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3981654692.</sub>

Comment (kim-em) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: **Re: your reply on `naming` —** re-reviewed on `9f832d9`; this clears the finding ✅ — approved on `9f832d9`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3981654900.</sub>

Comment (kim-em) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: **Re: your reply on `documentation` —** re-reviewed on `9f832d9`; this clears the finding ✅ — approved on `9f832d9`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3981655046.</sub>

Comment (kim-em) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: **Re: your reply on `proof-quality` —** re-reviewed on `9f832d9`; this clears the finding ✅ — approved on `9f832d9`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3981656553.</sub>

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: Contesting this finding: all three requested `@[simp]` tags fail the repo's lint gate, and silencing a linter is not allowed here.

I added `@[simp]` to `galHom_trans`, `repIso_inv_hom_trans_apply` and `cohomologyRes_trans`, ran a full `lake build` (green), and then ran `scripts/lint-env.sh`, the same driver CI uses. Verbatim output:

```
  [simpComm]
  #check @TauCeti.ClassFieldTheory.LayerRestriction.repIso_inv_hom_trans_apply /- should not be marked simp -/

  [simpNF]
  #check @TauCeti.ClassFieldTheory.LayerRestriction.galHom_trans /- Left-hand side does not simplify, when using the simp lemma on itself.

  This usually means that it will never apply.
   -/

  #check @TauCeti.ClassFieldTheory.LayerRestriction.cohomologyRes_trans /- Left-hand side does not simplify, when using the simp lemma on itself.

  This usually means that it will never apply.
   -/
::error::lint-env: 3 new violation(s); see the list above
LINT-ENV: FAIL — 3 new violation(s); see the list above
```

The reason is structural, not a matter of orientation. `LayerRestriction` is a `Prop` (`trans` and `refl` are `theorem`s), so `T.trans T'` is a proof term. In the left-hand sides `(T.trans T').galHom`, `(T.trans T').cohomologyRes F n` and `((T.trans T').repIso F).inv.hom x`, the only argument that carries the tower is that proof. The discrimination tree ignores proofs, and matching a proof up to proof irrelevance never assigns the intermediate layer `b` or the factors `T`, `T'`. So the lemma cannot fire on any goal: that is exactly what "Left-hand side does not simplify, when using the simp lemma on itself" reports. For `repIso_inv_hom_trans_apply` both sides are the same `inv.hom` applied to proof-indexed data, and `simpComm` rejects it as a permutation-like rule.

This matches the existing design in the file. The two `_self` laws (`galHom_self`, `cohomologyRes_self`) are `@[simp]` because their left-hand side matches *any* proof of `LayerRestriction L L`, so no variable needs to be recovered from a proof. The `_trans` laws must stay rewrite lemmas, applied explicitly as `rw [galHom_trans T T']`, which is how `subgroupGalEquiv_galHom_subgroupLayerRestriction` and `cohomologyRes_trans` already use them.

This rubric reached the same conclusion for `relativeDegree_trans` in this round ("leave `relativeDegree_trans` untagged"), and approved the earlier head `0475570` with these three lemmas untagged. The new head (`refactor: drop the unused relativeDegree_self`) keeps them untagged. With that, `lake build`, `lake exe axioms` and `scripts/lint-env.sh` (`LINT-ENV: PASS — no new violations`) are all green.

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: Fixed at head `ec4ddc4` (`refactor: drop the unused relativeDegree_self`): `LayerRestriction.relativeDegree_self` is deleted, as this finding asks. Nothing in the repository used it, and `simp` closes `T.relativeDegree = 1` through `relativeDegree_def` and `Subgroup.relIndex_self`. `lake build`, `lake exe axioms` and `scripts/lint-env.sh` are green on this head.

**Comment by ldct** [comment]
🔍 Review in progress — `codex` reviewing `ec4ddc4f6e09`.

File: TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean
Comment (ldct) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: ### ✅ api-design — now passing on `7226b09`.

Comment (ldct) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: ### ✅ naming — now passing on `7226b09`.

Comment (ldct) [inline TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: ### ✅ proof-quality — now passing on `7226b09`.

**Comment by ldct** [comment]
## AI review — approved

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ✅ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/correctness.md) | approved | `codex/gpt-5.6-sol` | The new restriction, cohomology, tower, and finite-quotient-system declarations faithfully formalize the stated mathematics; no semantic defects found. |
| ✅ | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/reuse.md) | approved | `codex/gpt-5.6-sol` | The new layer restriction API reuses the available TauCeti and Mathlib constructions, including groupCohomology.map, the quotient correspondence, relative-index transport, and Submodule.inclusion. No material duplication or unnecessary parallel API remains. |
| ✅ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/scope.md) | approved | `codex/gpt-5.6-sol` | The PR is a single coherent restriction-and-tower increment implementing explicit Layer 1 roadmap targets, including `LayerRestriction.trans`, `cohomologyRes`, tower functoriality, and finite-quotient-system closure. The relevant Layer 0 supplier infrastructure exists in the checkout and the unfinished Tate restriction/corestriction work is not consumed here. |
| ✅ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/attribution.md) | approved | `codex/gpt-5.6-sol` | The module credits its central informal sources (Artin–Tate, Neukirch, and Tate) and identifies the Tau Ceti blueprint governing the formal API; the new proofs use named Mathlib infrastructure without evidence of vendored or closely adapted external formalization. |
| ✅ | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/api-design.md) | approved | `codex/gpt-5.6-sol` | The public restriction API is complete for this PR’s scope. The prior identity-law concern is resolved by the existing simp-normal form through `relativeDegree_def` and `Subgroup.relIndex_self`. |
| ✅ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/generality.md) | approved | `codex/gpt-5.6-sol` | The changed declarations use the natural layer, formation, and subgroup parameters required by the roadmap, without visibly unused or unnecessarily strong assumptions or duplicated special-case proofs. |
| ✅ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/placement.md) | approved | `codex/gpt-5.6-sol` | The new tower, cohomological restriction, and finite-quotient-system declarations are naturally placed in Formation/Restriction.lean. Its two imports directly support the layer API and `Rep.res`, with no evidently unnecessary or overly broad import. |
| ✅ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/naming.md) | approved | `codex/gpt-5.6-sol` | The pointwise compatibility lemmas now carry the conventional `_apply` suffix, and the remaining introduced names accurately describe their statements with appropriate namespace placement and no new notation. |
| ✅ | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/documentation.md) | approved | `codex/gpt-5.6-sol` | The expanded module documentation accurately explains the mathematical purpose and direction of restriction, and all added public declarations have useful, statement-focused docstrings. |
| ✅ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/proof-quality.md) | approved | `codex/gpt-5.6-sol` | The previously reported undocumented definitional-equality reliance is resolved with explicit coercion lemmas; the added proofs are readable and appropriately factored. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/84bc0a5590c3e2a9b379528776f02c42c1c0c504...7226b090f344b8179455702c79758ed73b91400b) at head `7226b09`. rubrics @ [`afb424e`](https://github.com/TauCetiProject/TauCetiReview/tree/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics). Review spend: $4.38.</sub>

File: TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean
Comment (ldct) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `ec4ddc4`; this clears the finding ✅ — approved on `ec4ddc4`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3984203380.</sub>

Comment (ldct) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: **Re: your reply on `scope` —** re-reviewed on `ec4ddc4`; this clears the finding ✅ — approved on `ec4ddc4`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3981653254.</sub>

Comment (ldct) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `ec4ddc4`; the finding stands — The relative-degree API lacks its identity law, leaving the new tower operation incomplete for rewriting trivial restrictions.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3984203046.</sub>

Comment (ldct) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: **Re: your reply on `placement` —** re-reviewed on `ec4ddc4`; this clears the finding ✅ — approved on `ec4ddc4`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3981654692.</sub>

Comment (ldct) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: **Re: your reply on `naming` —** re-reviewed on `ec4ddc4`; the finding stands — Two pointwise compatibility lemmas omit the conventional `_apply` suffix and therefore look like map-level equalities.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3981654900.</sub>

Comment (ldct) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: **Re: your reply on `documentation` —** re-reviewed on `ec4ddc4`; this clears the finding ✅ — approved on `ec4ddc4`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3981655046.</sub>

Comment (ldct) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: **Re: your reply on `proof-quality` —** re-reviewed on `ec4ddc4`; the finding stands — Several new proofs close quotient-group equalities via undocumented definitional equality across nested subgroup coercions.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3981656553.</sub>

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: Contesting: this is the third reversal on the same declaration, and the requested lemma is exactly what `reuse` ordered deleted.

**The contradiction, quoted:**

- `api-design` round 1 (comment 3978100634, head `1cca261`): "`relativeDegree_self` is the characteristic identity law for `relativeDegree` but lacks `@[simp]` […] _Fix:_ Annotate `relativeDegree_self` with `@[simp]`."
- `api-design` then approved head `0475570` (rubrics `153ea8a`) *with* `relativeDegree_self` untagged: "`relativeDegree_self` already simplifies through `relativeDegree_def` and `Subgroup.relIndex_self`, so an additional `@[simp]` annotation is unnecessary."
- `reuse` (comment 3981601888, head `9f832d9`): "`LayerRestriction.relativeDegree_self` restates the result already obtained directly from `relativeDegree_def` and `Subgroup.relIndex_self` […] _Fix:_ Delete the theorem and use `simp [LayerRestriction.relativeDegree_def]` at call sites." The lemma was deleted at `ec4ddc4`, and `reuse` approved that head.
- `api-design` (this thread, head `ec4ddc4`) now says "Add `@[simp] theorem relativeDegree_self …`".

Both cannot hold. Re-adding the lemma re-opens the `reuse` finding word for word, and the two rubrics would alternate forever.

**The factual premise is false.** The finding says "consumers cannot normalize the relative degree of a trivial restriction to `1`." They can, with plain `simp` and no extra lemma, because `relativeDegree_def` is already `@[simp]` and Mathlib's `Subgroup.relIndex_self` is `@[simp]`. This file, compiled against this PR's head `7226b09` with `lake env lean`, succeeds:

```lean
import TauCeti.NumberTheory.ClassFieldTheory.Formation.Restriction
open TauCeti.ClassFieldTheory
variable {G : Type} [Group G] [TopologicalSpace G] [IsTopologicalGroup G] [CompactSpace G]
  [TotallyDisconnectedSpace G]

example {L : NormalLayer G} (T : LayerRestriction L L) : T.relativeDegree = 1 := by simp

example {L : NormalLayer G} (T : LayerRestriction L L) (n : ℕ) : n * T.relativeDegree = n := by
  simp
```

So the identity law is already reachable by the simp set. A `@[simp] relativeDegree_self` would be a lemma that `simp` proves from other simp lemmas, which is what the `simpNF` linter rejects ("simp can prove this"), and that is why the earlier version of this PR could not carry the attribute. `galHom_self` and `cohomologyRes_self` are different: their left-hand sides do not unfold to anything simp already closes, so they need to be simp lemmas.

The asymmetry with the two sibling `_self` laws is therefore deliberate: `relativeDegree` is a `@[simp]`-transparent numeric invariant, while `galHom` and `cohomologyRes` are not. I am keeping `relativeDegree_self` deleted, as `reuse` required.

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: Fixed at head `7226b09`. Both pointwise lemmas are renamed with the `_apply` suffix:

- `groundLevelEquiv_cohomologyRes_zero` → `groundLevelEquiv_cohomologyRes_zero_apply` (and the two references in the module docstring are updated)
- `subgroupGalEquiv_galHom_subgroupLayerRestriction` → `subgroupGalEquiv_galHom_subgroupLayerRestriction_apply`

Neither name had any other use in the repository. `lake build`, `lake exe axioms` and `scripts/lint-env.sh` are green on this head.

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: Fixed at head `7226b09`. Each of the four cited `rfl` steps is now closed with the named coercion lemma. After `galHom_mk` the goal is an equality of classes `QuotientGroup.mk a = QuotientGroup.mk b`, and it is closed by

```lean
exact congrArg QuotientGroup.mk (Subtype.ext (Subgroup.coe_inclusion _ _))
```

in `galHom_self`, `subgroupLayer_subgroupLayer` and `subgroupLayer_range_galHom`. In `galHom_trans`, where two inclusions are nested, the underlying-element equality is `by simp only [Subgroup.coe_inclusion]`. No proof in the tower section now relies on unfolding `Subgroup.inclusion`. `lake build`, `lake exe axioms` and `scripts/lint-env.sh` (`LINT-ENV: PASS — no new violations`) are green on this head.

Comment (ldct) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `7226b09`; this clears the finding ✅ — approved on `7226b09`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3985663247.</sub>

Comment (ldct) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: **Re: your reply on `naming` —** re-reviewed on `7226b09`; this clears the finding ✅ — approved on `7226b09`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3985663505.</sub>

Comment (ldct) [reply TauCeti/NumberTheory/ClassFieldTheory/Formation/Restriction.lean:1]: **Re: your reply on `proof-quality` —** re-reviewed on `7226b09`; this clears the finding ✅ — approved on `7226b09`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3985663852.</sub>
